US07405232B2
a) 3,5-difluoro-benzoic acid-(1-imino-ethyl)-hydrazide
The compound is obtained analogously to the method described for intermediate product 1a) from 4.91 g (40 mmol) ethylacetimidate hydrochloride and 3.80 g (22 mmol) 3,5 difluoro-benzoic acid hydrazide.

reactant | ethylacetimidate hydrochloride | 40 mmol, 4.91 g | Cl.C(C)OC(C)=N
reactant | 3,5 difluoro-benzoic acid hydrazide | 22 mmol, 3.80 g | FC=1C=C(C(=O)NN)C=C(C1)F | C7H6F2N2O
product | 3,5-difluoro-benzoic acid-(1-imino-ethyl)-hydrazide | N=C(C)N(N)C(C1=CC(=CC(=C1)F)F)=O | C9H9F2N3O
